* A more complete Op-Amp Model
* Connections:      non-inverting input
*                   |  inverting input
*                   |  |  positive power supply
*                   |  |  |  negative power supply
*                   |  |  |  |  output
*                   |  |  |  |  |
.SUBCKT level2      1  2  3  4  5 PARAMS: Avol=1e5 GBW=1e6
* INPUT STAGE
  RIN   1  2  1G
  G1    0  6  VALUE={ V(1,2) * Avol }
  R1    6  0  1k
* FREQUENCY RESPONSE
  C1    6  0  { Avol / (2 * 3.14159265 * 1k * GBW) }
* OUTPUT STAGE
  EOUT  7  0  VALUE={ V(6) }
  ROUT  7  5  10
  Vlim_p 3 8 DC 0
  Vlim_n 9 4 DC 0
  D_p 8 5 D_limit
  D_n 5 9 D_limit
.MODEL D_limit D(Is=1p N=40)
.ENDS level2